US07750154B2
N-Cyclopropyl-3-[6-(4-isopropylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzamide hydrochloride salt
To a stirred solution of N-cyclopropyl-3-[6-(4-isopropylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzamide (0.010 g) in ethyl acetate (0.5 ml) was added a 4N HCl in dioxane (0.0056 ml) at room temperature. The mixture was stirred at room temperature for a further 30 minutes. The reaction mixture was evaporated to give the title compound; NMR Spectrum: (DMSOd6) 0.55 (m, 2H), 0.70 (m, 2H), 1.24 (m, 6H), 2.13 (s, 3H), 2.85 (m, 1H), 3.00-3.50 (m, 9H), 7.53 (m, 2H), 7.69 (m, 2H), 7.84 (s, 1H), 7.91 (d, 1H), 8.12 (s, 1H), 8.46 (d, 1H), 10.80 (br s, 1H).

reactant | N-cyclopropyl-3-[6-(4-isopropylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzamide | 0.010 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CC1)C(C)C)=O | C26H31N5O2
reactant | HCl | 4N | Cl | ClH
solvent | ethyl acetate | 0.5 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 0.0056 ml | O1CCOCC1 | C4H8O2
product | N-Cyclopropyl-3-[6-(4-isopropylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzamide hydrochloride salt | Cl.C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CC1)C(C)C)=O | InChI=1S/C26H31N5O2.ClH/c1-17(2)29-10-12-30(13-11-29)21-8-9-23-22(15-21)26(33)31(16-27-23)24-14-19(5-4-18(24)3)25(32)28-20-6-7-20;/h4-5,8-9,14-17,20H,6-7,10-13H2,1-3H3,(H,28,32);1H
